US20010021718A1
(3R)-6-Cyclohexyl-3-{3-[2-oxo-2-(1-pyrrolidinyl)ethyl]-1,2,4-oxadiazol-5-yl}hexanoic acid
tert-Butyl (3R)-6-cyclohexyl-3-{3-(2-oxo-2-(1-pyrrolidinyl)ethyl]-1,2,4-oxadiazol-5-yl}hexanoate (Preparation 52) (309 mg, 0.71 mmol) was treated with trifluoroacetic acid (2 ml) and the resulting mixture was stirred at room temperature under a nitrogen atmosphere for 2 hours. The solvent was removed under reduced pressure and the residue azeotroped from toluene to afford the title compound as a pale yellow oil (200 mg).

reactant | tert-Butyl (3R)-6-cyclohexyl-3-{3-(2-oxo-2-(1-pyrrolidinyl)ethyl]-1,2,4-oxadiazol-5-yl}hexanoate | 0.71 mmol, 309 mg | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)CC(N1CCCC1)=O | C24H39N3O4
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (3R)-6-Cyclohexyl-3-{3-[2-oxo-2-(1-pyrrolidinyl)ethyl]-1,2,4-oxadiazol-5-yl}hexanoic acid | 200 mg | C1(CCCCC1)CCC[C@H](CC(=O)O)C1=NC(=NO1)CC(N1CCCC1)=O | C20H31N3O4
